Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:6]([H:7])[C:8]([H:9])[H:10].[O:3]=[C:4][H:5]>>[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-0.543907143739
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[H:4],0.8777022115700001
[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])/[C:4]=[C:5](/[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.8661623602800006
[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.539921510369999
[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:8][H:9]>>[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])=[C:8][H:9],-3.86589608752
[C:4]([H:5])[O:6][C:7]([H:8])[H:9].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-6.2093253853900015
[O:1]=[C:2][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.068807756799999
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9],-1.61859662681
[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.80736050266
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6][H:7]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.95392229808
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][O:7])=[C:9]([H:10])[H:11].[H:8],3.80494941873
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.07689989328
[C:6][O:7][H:8].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][O:7][H:8],-0.6801777586910001
[H:3][C:4]=[O:5].[O:1]=[C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.00350827075
[H:14].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.62127358723
[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.2079183987
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-5.12302271266
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.0950631285800005
[C:7][O:8][H:9].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-1.60929707764
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.11152373632
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-1.4272228054700002
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.28852141205
[H:1][C:2]([H:3])=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])=[C:4][H:5].[H:6],4.9499617344
[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:3]([H:4])=[C:5]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:6][H:7],5.00989235152
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[O:8][C:9]([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-3.4582315514699995
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([O:7][H:8])[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:4],2.43793399783
[H:1][C:2]([O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])[H:9])=[O:10]>>[H:1][C:2]1[O:3][C:4](=[C:5]([H:6])[C:7]([H:8])[H:9])[O:10]1,-0.935281590771
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],-8.16476781728
[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-6.61225412577
